US04933449
Preparation of 3-(4-chlorophenyl)-3-(3,4-dimethoxyphenyl)acrylic acid morpholide
6.92 g (25 mmol) 4-chloro-3',4'-dimethoxybenzophenone, 12.9 g (100 mmol) N-acetylmorpholine and 11.2 g (170 mmol) powdered potassium hydroxide (85%) were mixed well and allowed to stand at room temperature for 30 minutes, with occasional stirring. The viscous mass so obtained was then added to a vigorously stirred mixture of 100 ml water and 50 ml toluene. The toluene phase was dried and separated over a column containing 50 g silica gel using 150 ml each of 95:5, 90:10 and 80:20 toluene-acetone mixture as eluant. The fractions with an Rf value of 0.37 (Toluene/Acetone 7:3) were evaporated in a rotary evaporator, after which 0.8 g of the title compound were obtained by trituration with a little diisopropyl ether.

reactant | 4-chloro-3',4'-dimethoxybenzophenone | 25 mmol, 6.92 g | ClC1=CC=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C1 | C15H13ClO3
reactant | N-acetylmorpholine | 100 mmol, 12.9 g | C(C)(=O)N1CCOCC1 | C6H11NO2
reactant | potassium hydroxide | 170 mmol, 11.2 g | [OH-].[K+]
reactant | water | 100 ml | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chlorophenyl)-3-(3,4-dimethoxyphenyl)acrylic acid morpholide | 0.8 g | ClC1=CC=C(C=C1)C(=CC(=O)N1CCOCC1)C1=CC(=C(C=C1)OC)OC | C21H22ClNO4
